US09029545B2
Ethyl 4-amino-2-bromo-6-methyl-3-(3-methylphenyl)thieno[2,3-b]pyridine-5-carboxylate
To a stirred solution of ethyl 4-amino-6-methyl-3-(3-methylphenyl)thieno[2,3-b]pyridine-5-carboxylate (Description 57) (880 mg, 2.70 mmol) in DCM (10 mL) at RT was added dropwise N-bromosuccinimide (528 mg, 2.97 mmol) pre-dissolved in DCM (15 mL). The reaction mixture stirred at RT under nitrogen atmosphere for ca. 1 h. The reaction mixture was then quenched with saturated NaHCO3 aqueous solution and the aqueous layer separated and re-extracted with DCM (ca. 30 mL). The combined organic layer was then passed through a phase separator and the solvent removed in vacuo. Purification by chromatography on silica, eluting with a gradient of 0-40% ethyl acetate in cyclohexane afforded the title compound (900 mg). LCMS (A) m/z: 405/407 [M+1]+, Rt 1.55 min (acidic).

reactant | ethyl 4-amino-6-methyl-3-(3-methylphenyl)thieno[2,3-b]pyridine-5-carboxylate | 2.70 mmol, 880 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC=C2C2=CC(=CC=C2)C | C18H18N2O2S
reactant | N-bromosuccinimide | 2.97 mmol, 528 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-amino-2-bromo-6-methyl-3-(3-methylphenyl)thieno[2,3-b]pyridine-5-carboxylate | 900 mg | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C2=CC(=CC=C2)C)Br | C18H17BrN2O2S
